US04390702
In the same manner as in Example 1, ethyl 3-butyrylpyruvate (9.53 g; 0.0512 mol) is dissolved in acetonitrile (94 g) and reacted with fluorine at -5° C. By distilling off the solvent under reduced pressure, there is obtained a crude product (5.5 g), which is rectified to give ethyl 3-butyryl-3-fluoropyruvate. Boiling point, 72°-78° C./2 mmHg.

reactant | ethyl 3-butyrylpyruvate | 0.0512 mol, 9.53 g | C(CCC)(=O)CC(C(=O)OCC)=O | C9H14O4
reactant | fluorine | FF | F2
solvent | acetonitrile | 94 g | C(C)#N | C2H3N
product | ethyl 3-butyryl-3-fluoropyruvate | C(CCC)(=O)C(C(C(=O)OCC)=O)F | C9H13FO4
